Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Loss of consciousness and fall at work
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt. is a ___ y/o with a hx of HTN, hyperlipidemia, A fib,
who presents after a fall at work.

Pt. reports that he does not have any memory of the fall.  He
woke up in his USOH, though he does report that he felt more
tired than normal, and he did notice that when he walked up the
stairs he got a bit out of breath and dizzy.  He did not have 
any
chest pain, or any palpitations (when he had A fib back in
___ he did have palpitations, and is sure he had none 
today)
He did not have any headache or nausea.  He remembers talking to
his boss in his office, and then walking out the door, and the
next thing he remembers is waking up in the ambulance.

Per EMS report his co-workers found him wandering around 
confused
and disoriented.  He walked down the stairs, and then fell down
the last step and lost consciousness and hit the back of his
head.  They called ___ immediately.  The amount of time he was
unconscious is not recorded, but EMS describe him as A+O x 3 
when
they arrived.  EMS reported him as AOx3 when they arrived, and 
his vital signs were stable (BP 130s-140s/60s, HR ___, RR 
20, 98-99% RA). He was transported here for further evaluation.  


He has never had an event like this before that he remembers.  
He
has not had any symptoms suggestive of seizure in the past, such
as periods of confusion or memory loss, automatisms, shaking of
arms or legs, face twitching, or loss of consciousness.  
His most recent ECHO was in ___, he does not recall the 
results. He is followed by a cardiologist in ___ (Dr 
___ and is due for his stress test.

ROS positive for fatigue for past two months or so, chronic 
tinnitus, occasional blurry vision (chronic, has appt to see 
ophthalmologist for L eye glaucoma).
He denies headache, nausea, vomiting, diplopia, blurry vision,
vision loss, facial droop, dysarthria, word finding 
difficulties,
dysphagia, weakness or numbness in his arms or legs, neck pain,
back pain, or bowel or bladder incontinence.  He denies recent
head or neck trauma.  He has not had any problems at work
recently.

 
Past Medical History:
Hypertension
Hyperlipidemia
Gout
Atrial fibrillation (not on Coumadin), diagnosed in ___. 
Pt. tells me his doctors told ___ this was ___ his EtOH
consumption, and his doctors recommended ___ (worse at night, uses inhaler BID)
 
Social History:
___
Family History:
Mother with CAD and ___, Father with DM, no FH of strokes 
or seizures.

 
Physical Exam:
Physical Exam:
T-96.9 BP-121/59 HR-64 RR-18 O2Sat-98% 2L NC
Gen: Sitting up in bed, NAD, mood appears appropriate.
HEENT: NC/AT, moist oral mucosa, no lesions.
Neck: No tenderness to palpation, full ROM, supple, no carotid 
bruit.
Back: no tenderness to palpation.
CV: regular, ___ systolic crescendo-decrescendo murmur best 
heard in aortic area.
Lung: Clear to auscultation bilaterally.
Abd: +BS soft, nontender, nondistended.
Ext: no edema or rashes. 
 
Neurologic examination:
Mental status: Awake and alert, cooperative with exam, normal 
affect. 
Oriented to person, place, and date.  
Attentive, says ___ backwards.  
Luria intact. Speech is fluent with normal comprehension and 
repetition; naming of common objects is intact. 
Reading and writing intact.
Registers ___, recalls ___ in 5 minutes.  
Calculation intact.  
No right/left confusion. 
No evidence of apraxia or neglect. Draws clock with hands 
without trouble; describes cookie jar picture without trouble.
 
Cranial Nerves:
I - not tested.
II - visual acuity intact, ___ OD/OS without glasses on.
III, IV, VI - Pupils equally round and reactive to light 
directly and consensually, 4 to 2 mm bilaterally.  Visual fields 
are full to confrontation.  
Extraocular movements intact bilaterally, no nystagmus/saccades. 

V - Sensation intact V1- V3, muscles of mastication intact.  
VII - Facial movement symmetric.  
VIII - Hearing intact to finger rub bilaterally.  
IX, X - Palate elevation symmetrical, gag not tested.  
XI - Sternocleidomastoid and trapezius normal bilaterally. 
XII - Tongue midline, movements intact bilaterally.
Motor:
Normal bulk bilaterally. Tone normal. No observed myoclonus or 
tremor.
No pronator drift.
  Del Tri Bi  WF WE FE FF  IP  H  Q DF PF TE TF
R  ___  ___  ___  ___  5  5
L  ___  ___  ___  ___  5  5
Reflexes:
2 and brisk reflexes in UE bilaterally.
2 patellar reflexes bilaterally.
2 ankle jerk bilaterally. 
Toes downgoing bilaterally.
Sensation: 
Intact to light touch, cold, vibration and proprioception 
throughout UE and ___ bilaterally.
Coordination: finger-nose-finger normal, heel to shin normal, 
RAMs normal.
Gait: wide-based, appropriate strides and posture, unstable with 
tandem gait.
Romberg: negative.

 
Pertinent Results:
___ 07:56AM   GLUCOSE-162* UREA N-24* CREAT-1.1 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-105 TOTAL CO2-25 ANION GAP-14
___ 07:56AM   WBC-7.8 RBC-4.66 HGB-15.7 HCT-43.0 MCV-92 
MCH-33.7* MCHC-36.6* RDW-13.4
___ 07:56AM   NEUTS-57.8 ___ MONOS-8.1 EOS-2.5 
BASOS-0.6
___ 07:56AM   ___ PTT-22.3 ___
___ 07:56AM   CALCIUM-9.0 PHOSPHATE-3.0 MAGNESIUM-2.1
___ 07:56AM   CK-MB-6
___ 07:56AM   cTropnT-<0.01
___ 07:56AM   CK(CPK)-214*
___ 12:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 05:40PM   ETHANOL-NEG bnzodzpn-NEG barbitrt-NEG
___ 05:40PM   TSH-2.1
___ 05:40PM   ALBUMIN-4.1
___ 05:40PM   CK-MB-4 cTropnT-<0.01
___ 05:40PM   ALT(SGPT)-30 AST(SGOT)-24 LD(LDH)-157 
CK(CPK)-119 ALK PHOS-76 AMYLASE-18 TOT BILI-0.7
___ 09:13PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
_
_
_
_
_
_
_
_
_
_
________________________________________________________________
RADIOLOGY RESULTS:

CT HEAD:
Small focus of hemorrhage in the superior right frontal lobe, 
likely resulting from the fall.

MRI/MRA:
1. Two small foci of intraparenchymal hemorrhage are 
redemonstrated in the superior right frontal lobe with minimal 
surrounding edema. Tiny sliver of left frontal subdural hematoma 
and possible tiny amount of hemorrhage layering along the 
anterior falx. These findings are again consistent with trauma.
2. No evidence of venous sinus thrombosis, although the current 
study is not sensitive for cortical venous thrombosis.

CXR:
No acute cardiopulmonary process

ECHO:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). There is no 
left ventricular outflow obstruction at rest or with Valsalva. 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic regurgitation. There is no aortic valve stenosis. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Torn/redundant mitral chordae are present with 
the appearance of chordal systolic anterior motion/septal 
contact (non-obstructive). No mitral regurgitation is seen. 
Trivial mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: Redundant/torn mitral chordae with mitral valve 
chordal ___ (non-obstructive). Normal biventricular systolic 
function. No LVOT obstruction at rest or with Valsalva.  
 
Brief Hospital Course:
Given his symptoms, Mr ___ was admitted for concern of syncope 
___ vascular event such as venous sinus thrombosis or seizure.  
He had a normal CXR. 
A head CT in the ED showed the following: In the superior right 
frontal lobe, there is a 5 x 3 mm focus of hemorrhage (2:25). 
There is minimal surrounding edema. There is no mass effect or 
midline shift upon the right lateral ventricle. A second, 
possibly contiguous adjacent focus of hemorrhage (2:24) is even 
smaller. No other foci of hemorrhage identified. No fracture or 
superficial hemorrhage is identified. The ventricles and sulci 
are normal in caliber and configuration. 

To better evaluate the vasculature, he had an MRI/MRA/MRV, which 
showed the following: Two small foci of intraparenchymal 
hemorrhage are redemonstrated in the superior right frontal lobe 
with minimal surrounding edema. In addition, there is a tiny 
amount of blood layering along the left frontal lobe consistent 
with a subdural hematoma. Linear region of increased FLAIR 
signal along the anterior falx may also represent a tiny sliver 
of subdural hematoma. This findings were consistent with head 
trauma ___ fall. Mild periventricular hypodensities are likely 
due to chronic small vessel ischemic disease. Mucosal thickening 
in ethmoid air cells likely relate to chronic sinus disease; the 
remainder of the visualized paranasal sinuses and mastoid air 
cells appear well aerated. Normal vascular flow voids are 
demonstrated. No abnormal T1 signal is seen to indicate cortical 
venous thrombosis. The intracranial vertebral and internal 
carotid arteries and their major branches appear normal, without 
evidence of stenosis, occlusion, or aneurysm formation.

In addition, he underwent an EEG to r/o seizure, which revealed 
no epileptiform changes and no areas of focal slowing.

He also underwent an LP which showed a Protein 52, Glucose 79, 
WBC 3 and RBC 1325 consistent with his recent ICH.  CSF Gram 
stain and cultures showed no organisms.  Blood cultures were 
pending at time of discharge.  He remains afebrile without 
leukocytosis.

He remained hemodynamically stable throughout his hospital 
course, and did not have any seizure-type activity.  His cardiac 
enzymes were negative x 3 ruling out MI, and his CPK continued 
to trend down.  In addition, his telemetry remained in sinus 
rhythm. An EKG on admission was significant for sinus 
bradycardia and diffuse ST changes, perhaps suggestive of 
pericarditis.  AM fasting fingerstick glucose levels were 
abnormally high at 134 and 122.  In addition, his HbA1c was 
found to be 6.1  and his fasting lipid profile revealed and LDL 
of 108.

He was evaluated by the Cardiology service given concern that 
his syncope was less consistent with seizure, and seemed to be 
more cardiac in origin. An Trans-thoracic ECHO revealed: The 
left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. Overall left ventricular systolic 
function is normal (LVEF>55%). There is no left ventricular 
outflow obstruction at rest or with Valsalva. The ascending 
aorta is mildly dilated. The mitral valve leaflets are mildly 
thickened. Torn/redundant mitral chordae are present with the 
appearance of chordal systolic anterior motion/septal contact 
(non-obstructive).  Trivial mitral regurgitation is seen. There 
is no pericardial effusion. IMPRESSION: Redundant/torn mitral 
chordae with mitral valve chordal ___ (non-obstructive). Normal 
biventricular systolic function. No LVOT obstruction at rest or 
with Valsalva.  
The Cardiology service recommended outpatient Holter monitoring, 
a trans-esophageal ECHO, and increasing ASA to 325mg PO QD.

At time of discharge, he was in stable condition, and reported 
being able to ambulate without lightheadedness, but was 
counseled to exercise caution with exertion. He was also 
counseled to hold his home regimen of aspirin for one week due 
to his recent ICH. He will follow-up with his PCP and Dr. 
___ in Neurology ___. 

 
Medications on Admission:
- Advair diskus 2 puffs BID 
- Allopurinol ___ 2 tabs QD
- Lisinopril 40mg QD
- Atenolol 25mg QD
- ASA 81mg QD

 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. ASA 325mg PO QD
3. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
4. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope of unclear etiology
Subdural hematoma
Intracranial hemorrhage
Borderline diabetes
Hypertension

 
Discharge Condition:
No focal neurological deficits, stable.

 
Discharge Instructions:
1) Please take all medications as instructed.
2) Please call ___ or go to the nearest Emergency Department for 
worsening or recurrent symptoms.
3) Do not drink Alcohol
4) Please do not take Aspirin for 7 days, after which you can 
restart this medication
 
Followup Instructions:
___